US06235787B1
A solution of 3.0 g of 2(R)-[1(S)-(tertbutoxycarbonyl)-3-butenyl]-4-methylvaleric acid in 30 ml of ethanol was hydrogenated in the presence of 0.3 g of 5% palladium-on-carbon for 4 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was dissolved in 30 ml of toluene and the solvent was evaporated again. Repetition of this procedure gave 2.83 g of 2(R)-[1(S)-(tertbutoxycarbonyl)-butyl]-4-methyl-valeric acid as a colourless oil.

reactant | 2(R)-[1(S)-(tertbutoxycarbonyl)-3-butenyl]-4-methylvaleric acid | 3.0 g | C(C)(C)(C)OC(=O)[C@@H](CC=C)[C@H](C(=O)O)CC(C)C | C15H26O4
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium-on-carbon | 0.3 g | [Pd] | Pd
product | 2(R)-[1(S)-(tertbutoxycarbonyl)-butyl]-4-methyl-valeric acid | 2.83 g | C(C)(C)(C)OC(=O)[C@@H](CCC)[C@H](C(=O)O)CC(C)C | C15H28O4
